US06544985B2
[2-[3-(2-Cyano-pyridin-4-yl)-3-oxo-propionylamino]-5-(cyclopropylmethyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester
The title compound was prepared from [2-amino-5-(cyclopropylmethyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester (Example J18) (180 mg, 0.5 mmol) and 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester (Example K3) (123 mg, 0.5 mmol) according to the general procedure M. Obtained as a yellow amorphous substance (206 mg).

reactant | [2-amino-5-(cyclopropylmethyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester | 0.5 mmol, 180 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC1CC1)C(F)(F)F)N)=O | C17H24F3N3O2
reactant | 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester | 0.5 mmol, 123 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=NC=C1)C#N)=O | C13H14N2O3
product | [2-[3-(2-Cyano-pyridin-4-yl)-3-oxo-propionylamino]-5-(cyclopropylmethyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC1CC1)C(F)(F)F)NC(CC(=O)C1=CC(=NC=C1)C#N)=O)=O | C26H28F3N5O4
